US05910498
1-(3-amino-4,6-difluorophenyl)-8-chloro-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
Ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (1.8 g) was added to 5 ml of hydrochloric acid and 20 ml of acetic acid. The solution was heated at reflux for 3 hours. The reaction solution was allowed to cool down and concentrated in vacua, and ethanol was added to the residue. The solid was collected by filtration and washed with diethyl ether to give 1.4 g of the title compound.

reactant | Ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-formylaminophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.8 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)NC=O)F)F)C(=O)OCC)=O)F)F | C19H11ClF4N2O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(3-amino-4,6-difluorophenyl)-8-chloro-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.4 g | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O | C16H7ClF4N2O3
